US09428452B2
Preparation of N-(2,4-dimethylphenyl)-4-((2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)methoxy)-N-isobutylbenzenesulfonamide (Example 56)
A mixture of N-(2,4-dimethylphenyl)-4-hydroxy-N-isobutylbenzenesulfonamide (33 mg, 0.099 mmol), 6-(hydroxymethyl)pyrimidine-2,4(1H,3H)-dione (17.1 mg, 0.12 mmol) and triphenylphosphine (26 mg, 0.099 mmol) was dissolved in tetrahydrofuran (THF) (0.6 mL) and treated with diisopropyl diazene-1,2-dicarboxylate (DIAD) (25 uL, 0.13 mmol). The vessel was capped and stirred at 20° C. for 2 days. Additional 6-(hydroxymethyl)pyrimidine-2,4(1H,3H)-dione (17.1 mg, 0.12 mmol) and diisopropyl diazene-1,2-dicarboxylate (DIAD) (30 uL, 0.156 mmol) were added and reaction stirred for further 18 hours. The reaction was then filtered and purification attempted by mass directed autoprep (ammonium carbonate modifier), but this failed to isolate clean material. Purification successfully achieved by mass directed autoprep (formic acid modifier), to provide the required product, 1.1 mg. LCMS [LCMS1] Rt 1.13 min, m/z (ES+) 458 (M+H).

reactant | N-(2,4-dimethylphenyl)-4-hydroxy-N-isobutylbenzenesulfonamide | 0.099 mmol, 33 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)O)CC(C)C | C18H23NO3S
reactant | 6-(hydroxymethyl)pyrimidine-2,4(1H,3H)-dione | 0.12 mmol, 17.1 mg | OCC1=CC(NC(N1)=O)=O | C5H6N2O3
reactant | triphenylphosphine | 0.099 mmol, 26 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl diazene-1,2-dicarboxylate | 0.13 mmol, 25 uL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 6-(hydroxymethyl)pyrimidine-2,4(1H,3H)-dione | 0.12 mmol, 17.1 mg | OCC1=CC(NC(N1)=O)=O | C5H6N2O3
reactant | diisopropyl diazene-1,2-dicarboxylate | 0.156 mmol, 30 uL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
product | N-(2,4-dimethylphenyl)-4-((2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)methoxy)-N-isobutylbenzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)OCC=1NC(NC(C1)=O)=O)CC(C)C | C23H27N3O5S
